US04920134
1-Hexyl-3-[2-[2-[3-octadecyloxy-2-(pyrimidin-4-yloxy)propoxy]ethoxy]ethyl]imidazolium chloride
1-Hexylimidazole [304 mg (2 millimoles)] was dissolved in 2-[2-[3-octadecyloxy-2-(pyrimidin-4-yloxy)propoxy]ethoxy]ethyl methanesulfonate [800 mg (1.36 millimole)], and the mixture was heated at 80° C. for 2.5 hours. The mixture was dissolved in a mixture of dichloromethane and ethanol (95:5; 60 ml) and shaken with 30% saline for separation into layers. The lower layer collected was concentrated and purified by silica gel column chromatography [Merck, Art. 7734, 30 g (eluent: chloroform-methanol=9:1-65:25)] to give the above-identified compound [760 mg (82%)].

reactant | 1-Hexylimidazole | 2 millimoles, 304 mg | C(CCCCC)N1C=NC=C1 | C9H16N2
reactant | 2-[2-[3-octadecyloxy-2-(pyrimidin-4-yloxy)propoxy]ethoxy]ethyl methanesulfonate | 1.36 millimole, 800 mg | CS(=O)(=O)OCCOCCOCC(COCCCCCCCCCCCCCCCCCC)OC1=NC=NC=C1 | C30H56N2O7S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-Hexyl-3-[2-[2-[3-octadecyloxy-2-(pyrimidin-4-yloxy)propoxy]ethoxy]ethyl]imidazolium chloride | [Cl-].C(CCCCC)[N+]1=CN(C=C1)CCOCCOCC(COCCCCCCCCCCCCCCCCCC)OC1=NC=NC=C1 | InChI=1S/C38H69N4O4.ClH/c1-3-5-7-9-10-11-12-13-14-15-16-17-18-19-20-22-29-44-33-37(46-38-23-24-39-35-40-38)34-45-32-31-43-30-28-42-27-26-41(36-42)25-21-8-6-4-2;/h23-24,26-27,35-37H,3-22,25,28-34H2,1-2H3;1H/q+1;/p-1
